US04174405
A mixture of 37 g (0.197 mole) of 2-(3,4-xylyl)thiophene, 200 ml of reagent carbon tetrachloride, 29 ml (36 g, 0.259 mole) of benzenesulfenyl chloride and 0.05 g of iron powder was allowed to stand two days at room temperature. A vapor phase chromatogram of the mixture showed that all the 2-(3,4-xylyl)thiophene had been consumed. The carbon tetrachloride was removed by distillation and the residue recrystallized from ethanol to give a first crop of 17 g (29%) of 2-phenylthio-5-(3,4-xylyl)thiophene, m.p. 77°-78° C.

reactant | 2-(3,4-xylyl)thiophene | 0.197 mole, 37 g | C1(=CC(=C(C=C1)C)C)C=1SC=CC1 | C12H12S
reactant | benzenesulfenyl chloride | 0.259 mole, 29 ml, 36 g | C1(=CC=CC=C1)SCl | C6H5ClS
catalyst | iron | 0.05 g | [Fe] | Fe
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-phenylthio-5-(3,4-xylyl)thiophene | 17 g, 29% | C1(=CC=CC=C1)SC=1SC(=CC1)C1=CC(=C(C=C1)C)C | C18H16S2
